US04537725
Bis(4-isopropylphenyl)iodosyl trifluoroacetate is prepared by a similar method to that described by F. M. Beringer and P. Boedlander, loc. cit.) using 4-isopropyliodoxybenzene (8.3 g) as starting material. The trifluoroacetate is dissolved in boiling water. Potassium hexafluorophosphate (2 molar excess) in water is added and the solution is allowed to cool. The crystals which form are collected by filtration and dried in air to afford bis(4-isopropylphenyl)iodosyl hexafluorophosphate (0.4 g) m.pt. 84° C. Spectroscopic analysis shows:

reactant | 4-isopropyliodoxybenzene | 8.3 g | C(C)(C)C1=CC=C(C=C1)I(=O)=O | C9H11IO2
reactant | trifluoroacetate | FC(C(=O)[O-])(F)F
reactant | Potassium hexafluorophosphate | 2 molar | F[P-](F)(F)(F)(F)F.[K+]
solvent | water | O | H2O
product | Bis(4-isopropylphenyl)iodosyl trifluoroacetate | FC(C(=O)OI(=O)(C1=CC=C(C=C1)C(C)C)C1=CC=C(C=C1)C(C)C)(F)F | C20H22F3IO3
